US08877975B2
(1-(3-chlorophenyl)cyclohexyl)-N,N-dimethylmethanamine hydrochloride (82)
The title compound was synthesized from 1-(3-chlorophenyl)-N,N-dimethylcyclohexanecarboxamide (191 mg, 0.72 mmol) using General Procedure E, followed by HCl salt formation. The crude HCl salt was recrystallized from 2:1 CH3CN:EtOAc (4.5 mL) to give pure (1-(3-chlorophenyl)cyclohexyl)-N,N-dimethylmethanamine hydrochloride as an off-white solid (21 mg, 12%). HPLC Rt=8.41 min; 1H NMR (400 mHz, MeOH-d4) 7.51-7.30 (m, 4H), 3.26-3.24 (m, 2H), 2.54 (s, 6H), 2.24-2.20 (m, 2H), 1.72-1.33 (m, 8h); LC-MS 8.16 min, (M+1)− 252 @ 8.27 min.

reactant | 1-(3-chlorophenyl)-N,N-dimethylcyclohexanecarboxamide | 0.72 mmol, 191 mg | ClC=1C=C(C=CC1)C1(CCCCC1)C(=O)N(C)C | C15H20ClNO
reactant | HCl | Cl | ClH
product | (1-(3-chlorophenyl)cyclohexyl)-N,N-dimethylmethanamine hydrochloride | 21 mg, 12% | Cl.ClC=1C=C(C=CC1)C1(CCCCC1)CN(C)C | InChI=1S/C15H22ClN.ClH/c1-17(2)12-15(9-4-3-5-10-15)13-7-6-8-14(16)11-13;/h6-8,11H,3-5,9-10,12H2,1-2H3;1H
